US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-methoxyethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
The title compound was prepared from tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate following the procedure described above for the synthesis of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(4-(methylsulfonyl)piperazin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid, using methanol as reagent in step 1. The product was isolated as a white solid (1.6 mg, 5.2%). LCMS: m/e 602.49 (MH+), 2.40 min (method 9). 1H NMR (500 MHz, METHANOL-d4) δ 7.85 (d, J=7.6 Hz, 2H), 7.12 (d, J=7.6 Hz, 2H), 5.29 (s, 1H), 4.79-4.76 (s, 1H), 4.66 (s, 1H), 3.67-3.64 (m, 2H), 3.43 (s, 3H), 3.21-3.15 (m, 3H), 2.69-2.62 (m, 1H), 2.52 (m, 1H), 2.19-2.10 (m, 1H), 2.07-2.00 (m, 1H), 1.79 (m, 8H), 1.57 (m, 8H), 1.40-1.24 (m, 7H), 1.18 (m, 4H), 1.09 (3H, s), 1.05 (3H, s), 0.97 (3H, s), 0.96 (3H, s).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aziridin-1-ylmethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | N1(CC1)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C43H63NO2
reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-5a,5b,8,8,11a-pentamethyl-3a-((2-(4-(methylsulfonyl)piperazin-1-yl)ethylamino)methyl)-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC3)C(=C)C)CNCCN3CCN(CC3)S(=O)(=O)C | C44H67N3O4S
solvent | methanol | CO | CH4O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-methoxyethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | COCCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C40H59NO3
